Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])#[C:6][C:7][O:8][H:9].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][O:8][H:9],-3.78211906604
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],4.63303822474
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12],1.42983480264
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:8]([H:9])[H:10].[H:7],4.98423729742
[C:1]#[C:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.83018070823
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.05238338296
[C:4]([H:5])=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.36098383958
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9][H:10],3.87524108145
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[O:10]1>>[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[O:10],-0.68417332685
[O:1]=[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2],0.595573163469
[C:1][C:2]#[C:3][O:4][O:5]>>[C:1].[C:2]#[C:3][O:4][O:5],6.74895428211
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.85847520911
[H:1][C:2]=[C:3]([H:4])[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.00210827772
[H:4].[O:1]=[C:2]([O:3])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.87480111238
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4],1.92714642451
[C:7]([H:8])[O:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-6.4167291548300005
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.5257089299
[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5][C:6]([H:7])([H:8])[H:9],4.55793137757
[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3][C:10]([C:4][O:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12],2.49448673067
[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],3.44843912807
[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.03464144706
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.83996299881
[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.45639763145
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11],5.123154962130001
[H:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],2.38446125176
[C:3]([H:4])#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.1568376729
[O:1]=[C:2]=[C:3]1[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.91736919102
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.377518686549
[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2][C:9]([C:6]([C:3][O:4][H:5])([H:7])[H:8])([H:10])[H:11],2.46451005037
[O:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[O:2],2.23693796221
